US04470986
2-(N-formylaminomethyl)-4-(3-methoxycarbonylpropyl)pyridine (33 mg) is dissolved in 1 ml of toluene and heated at 90° with phosphorus oxychloride (44 mg) for 18 hours under nitrogen. The solvent is evaporated and the residue is suspended in methylene chloride, cooled to 0° and made basic with saturated ammonium hydroxide solution. The aqueous phase is extracted with methylene chloride (4×15 ml) which is dried over sodium sulfate and evaporated to yield 7-(3-methoxycarbonylpropyl)imidazo[1,5-a]pyridine as an oil, after purification by preparative thin layer chromatography (silica gel, 3:1 ethyl acetate-methanol); NMR (CDCl3) 3.70 (s, 3H); 6.45 (q, 1H), 7.2 (s, 1H), 7.32 (s, 1H), 7.90 (d, 1H); 8.08 (s, 1H); IR (CH2Cl2) 1730 cm-1.

reactant | 2-(N-formylaminomethyl)-4-(3-methoxycarbonylpropyl)pyridine | 33 mg | C(=O)NCC1=NC=CC(=C1)CCCC(=O)OC | C12H16N2O3
reactant | phosphorus oxychloride | 44 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(3-methoxycarbonylpropyl)imidazo[1,5-a]pyridine | COC(=O)CCCC1=CC=2N(C=C1)C=NC2 | C12H14N2O2
